US06320050B1
(3-Chloro-phenyl)-acetic acid (6.03 g, 0.03 mol) was dissolved in ethanol (37.7 mL) and treated with a catalytic amount of sulfuric acid. The reaction mixture was refluxed for 12 h. The reaction was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) afforded (3-chloro-phenyl)-acetic acid ethyl ester (6.10 g, 86.8%) as a clear oil: EI-HRMS m/e calcd for C10H11ClO2 (M+) 198.0448, found 198.0442.

reactant | (3-Chloro-phenyl)-acetic acid | 0.03 mol, 6.03 g | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 37.7 mL | C(C)O | C2H6O
product | (3-chloro-phenyl)-acetic acid ethyl ester | 6.10 g, 86.8% | C(C)OC(CC1=CC(=CC=C1)Cl)=O | C10H11ClO2
